US06326369B1
4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzoic acid
A water (2.0 ml) solution of CAN (1.27 g, 2.32 mmols) was dropwise added to an acetonitrile (8.0 ml) solution of 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzoic acid (400 mg, 0.929 mmols), with cooling with ice, and stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out in vacuo, and the resulting crude product was purified by silica gel column chromatography (ethyl acetate) followed by recrystallization (from hexane-ethyl acetate) to obtain the entitled compound (200 mg) as crystals.

reactant | CAN | 2.32 mmols, 1.27 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 8.0 ml | C(C)#N | C2H3N
reactant | 4-[4-(4,5,6,7-tetramethoxyindan-2-yl)butoxy]benzoic acid | 0.929 mmols, 400 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCOC1=CC=C(C(=O)O)C=C1 | C24H30O7
solvent | Water | O | H2O
solvent | water | 2.0 ml | O | H2O
product | 4-[4-(5,6-dimethoxy-4,7-dioxoindan-2-yl)butoxy]benzoic acid | 200 mg | COC=1C(C=2CC(CC2C(C1OC)=O)CCCCOC1=CC=C(C(=O)O)C=C1)=O | C22H24O7
